US05654316
N-(4-Chlorophenyl)-gamma-(3,4-Dichlorophenyl)-N-methyl-4-(phenylmethyl)-1-piperidinepentanamine
N-(4-Chlorophenyl)-beta-(3,4-Dichlorophenyl)-N-methyl-4-(phenylmethyl)-1-piperidinepentanamide (0.38 g) in THF (30 mL) was treated with BH3 :DMS (0.4 mL; 10M) and heated at reflux temperature for 18 hours. The cooled reaction mixture was then treated with MeOH (2.0 mL) and the solvent evaporated under reduced pressure. The residue was dissolved in EtOH (20 mL), treated with potassium carbonate and heated at reflux temperature for 3 hours. The reaction mixture was concentrated under reduced pressure and partitioned between CH2Cl2 (20 mL) and saturated NaHCO3 solution (20 mL). The organic portion was separated and the aqueous rextracted with CH2Cl2 (2×20 mL). The combined organic was dried over MgSO4, filtered and evaporated to give an oil. Silica gel chromatography eluting with 5% MeOH:CH2Cl2 gave the title compound (0.18 g). Mass spectrum (CI): 529.

reactant | N-(4-Chlorophenyl)-beta-(3,4-Dichlorophenyl)-N-methyl-4-(phenylmethyl)-1-piperidinepentanamide | 0.38 g | ClC1=CC=C(C=C1)N(C(CC(CCN1CCC(CC1)CC1=CC=CC=C1)C1=CC(=C(C=C1)Cl)Cl)=O)C | C30H33Cl3N2O
reactant | DMS | 10M, 0.4 mL | CSC | C2H6S
reactant | MeOH | 2.0 mL | CO | CH4O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | N-(4-Chlorophenyl)-gamma-(3,4-Dichlorophenyl)-N-methyl-4-(phenylmethyl)-1-piperidinepentanamine | 0.18 g | ClC1=CC=C(C=C1)N(CCC(CCN1CCC(CC1)CC1=CC=CC=C1)C1=CC(=C(C=C1)Cl)Cl)C | C30H35Cl3N2
